US07790724B2
a) 2-Methoxy-5-(4-nitro-phenyl)-pyridine
The title compound was prepared from 4,4,5,5-tetramethyl-2-(4-nitro-phenyl)-[1,3,2]dioxaborolane (899 mg, 3.60 mmol), 5-bromo-2-methoxy-pyridine (616 mg, 3.28 mmol) and Pd(PPh3)4 (380 mg, 0.360 mmol) according to the procedure in Example 44, step (b) (615 mg, 94%). Mass spectrum (ESI, m/z): Calcd. for C12H10N2O3, 231.0 (M+H), found 231.2.

reactant | 4,4,5,5-tetramethyl-2-(4-nitro-phenyl)-[1,3,2]dioxaborolane | 3.60 mmol, 899 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)[N+](=O)[O-])C | C12H16BNO4
reactant | 5-bromo-2-methoxy-pyridine | 3.28 mmol, 616 mg | BrC=1C=CC(=NC1)OC | C6H6BrNO
catalyst | Pd(PPh3)4 | 0.360 mmol, 380 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methoxy-5-(4-nitro-phenyl)-pyridine | COC1=NC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H10N2O3
